US04481214
Trans-6-cyano-4-formylamino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol
The aminoalcohol (0.9 g), obtained by stirring 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-benzo[b]pyran with ethanolic ammonium hydroxide), was heated under reflux in formic acid (15 ml) and pyridine (1 ml) during 19 hr. The cooled solution was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulphate. Filtration and evaporation left an orange coloured oil which was chromatographed (chromatotron, ethyl acetate-pentane gradient elution on silica gel 2 mm, flow rate 9 ml/min.) to give after one recrystallisation from ethyl acetate, the title compound (220 mg), of m.p. 228.5°-230.5° C.

reactant | aminoalcohol | 0.9 g | NO | H3NO
reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-benzo[b]pyran | C(#N)C1=CC2=C(OC(C3C2O3)(C)C)C=C1 | C12H11NO2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | formic acid | 15 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | Trans-6-cyano-4-formylamino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol | C(#N)C1=CC2=C(OC([C@H]([C@@H]2NC=O)O)(C)C)C=C1 | C13H14N2O3
